US04986845
(2) 3-benzyloxy-2-chloro-4-methanesulfonylbenzoic acid
2.5 g of benzyl 3-benzyloxy-2-chloro-4-methanesulfonylbenzoate was put into 50 ml of ethanol, and 25 ml of an aqueous solution containing 1 g of sodium hydrochloride was added thereto. The mixture was stirred at room temperature for 30 minutes. Then, ethanol was distilled off, and water was added to the residue. The mixture was washed with chloroform. The aqueous layer was acidified with concentrated hydrochloric acid and then extracted with chloroform. The extract was dried over anhydrous sodium sulfate. Then, the solvent was distilled off to obtain a crude product of the above identified compound. The crude product was washed with ethanol-isopropyl ether to obtain 1.0 g of the desired product.

reactant | benzyl 3-benzyloxy-2-chloro-4-methanesulfonylbenzoate | 2.5 g | C(C1=CC=CC=C1)OC=1C(=C(C(=O)OCC2=CC=CC=C2)C=CC1S(=O)(=O)C)Cl | C22H19ClO5S
reactant | sodium hydrochloride | 1 g | Cl.[Na]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-benzyloxy-2-chloro-4-methanesulfonylbenzoic acid | 1.0 g | C(C1=CC=CC=C1)OC=1C(=C(C(=O)O)C=CC1S(=O)(=O)C)Cl | C15H13ClO5S
